US03932520
A. 2-methyl-2-hepten-6-on-1-al dimethylacetal ##EQU6##
180 g (1 mole) of 30% solution of sodium methylate in methanol is added over 15 minutes at 150° to 20°C to 116 g (1 mole) of methyl acetoacetate. The whole is stirred for another hour at 20° to 30° C and then 156 g (0.95 mole) of 2-methyl-4-chloro-2-buten-1-al dimethylacetal is added to the solution at 20°C over 30 minutes. The reaction mixture obtained is stirred for 15 hours at room temperature, then 400 g of 10% caustic soda solution is added and stirring is continued for another 2 hours at 60°C. The salt-like constituents are separated by filtration and the organic products are isolated by extraction with ether. Before the ethereal solution is distilled it is washed with saturated common salt solution. The ether is then distilled off and the residue is fractionated. The boiling point is 72° to 83° C at 0.9 to 1.5 mm and the refractive index nD25 = 1.4474.

reactant | sodium methylate | C[O-].[Na+]
reactant | methyl acetoacetate | 1 mole, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-methyl-4-chloro-2-buten-1-al dimethylacetal | 0.95 mole, 156 g | COC(C(=CCCl)C)OC | C7H13ClO2
reactant | caustic soda | 400 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methyl-2-hepten-6-on-1-al dimethylacetal | COC(CCC=C(C=O)C)(C)OC | C10H18O3
